US04001222
3-(3-Aminopropionyl)-1-{[5-(4-fluorophenyl)furfurylidene]amino}hydantoin Hydrochloride
The 3-(t-butoxycarbonyl-aminopropionyl)-1-{[5-(4-fluorophenyl) furfurylidene]amino}hydantoin (10.4 g, 0.023 mole) was added to 3% HCl/acetic acid (125 ml) and stirred for 4 hours. The yellow solid was filtered, washed with nitromethane and ether to yield 7 g, 28%, m.p. 195°-197° C.

reactant | 3-(t-butoxycarbonyl-aminopropionyl)-1-{[5-(4-fluorophenyl) furfurylidene]amino}hydantoin | 0.023 mole, 10.4 g | C(C)(C)(C)OC(=O)C(CC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC=C(C=C1)F)=O)N | C22H23FN4O6
reactant | HCl acetic acid | 125 ml | Cl.C(C)(=O)O
product | 3-(3-Aminopropionyl)-1-{[5-(4-fluorophenyl)furfurylidene]amino}hydantoin Hydrochloride | Cl.NCCC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC=C(C=C1)F)=O | InChI=1S/C17H15FN4O4.ClH/c18-12-3-1-11(2-4-12)14-6-5-13(26-14)9-20-21-10-16(24)22(17(21)25)15(23)7-8-19;/h1-6,9H,7-8,10,19H2;1H
